US08975400B2
7-((3,5-difluoro-4-(3-fluoro-4-(trifluoromethyl)phenoxy)benzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(I H)-one
Prepared in a manner similar to that described for E1 using (3,5-difluoro-4-(3-fluoro-4-(trifluoromethyl)phenoxy)phenyl)methanol (122 mg, 0.377 mmol) in DMF (4 mL), sodium hydride (45.3 mg, 1.131 mmol) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (70 mg, 0.377 mmol).

reactant | (3,5-difluoro-4-(3-fluoro-4-(trifluoromethyl)phenoxy)phenyl)methanol | 0.377 mmol, 122 mg | FC=1C=C(C=C(C1OC1=CC(=C(C=C1)C(F)(F)F)F)F)CO | C14H8F6O2
reactant | sodium hydride | 1.131 mmol, 45.3 mg | [H-].[Na+]
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.377 mmol, 70 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 7-((3,5-difluoro-4-(3-fluoro-4-(trifluoromethyl)phenoxy)benzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(I H)-one | FC=1C=C(COC=2C=C3N(C(N2)=O)CCN3C)C=C(C1OC1=CC(=C(C=C1)C(F)(F)F)F)F | C21H15F6N3O3
